### PR TITLE
feat: some more equiv lemmas

### PR DESCRIPTION
**Pull request by plp127**
Adds `equiv_of_forall_lf` and `equiv_of_exists_le`.

### CODE REVIEW

File: CombinatorialGames/Game/IGame.lean [hunk 1]
```diff
@@ -527,21 +527,39 @@ infix:50 " ≈ " => AntisymmRel (· ≤ ·)
...
+    exact ⟨b, hb, hab.le⟩
+  · intro a ha
+    obtain ⟨b, hb, hab⟩ := hr₁ a ha
+    exact ⟨b, hb, hab.ge⟩
+  · intro b hb
+    obtain ⟨a, ha, hab⟩ := hl₂ b hb
+    exact ⟨a, ha, hab.ge⟩
+  · intro b hb
+    obtain ⟨a, ha, hab⟩ := hr₂ b hb
+    exact ⟨a, ha, hab.le⟩
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/IGame.lean]: (Untested golf) While explicitness is nice, this repository has a lot of symmetry, so it's nice not to be repetitive when possible.

```suggestion
  apply equiv_of_exists_le <;> intro i hi
  · obtain ⟨b, hb, hab⟩ := hl₁ i hi
    exact ⟨b, hb, hab.le⟩
  · obtain ⟨b, hb, hab⟩ := hr₁ i hi
    exact ⟨b, hb, hab.ge⟩
  · obtain ⟨a, ha, hab⟩ := hl₂ i hi
    exact ⟨a, ha, hab.ge⟩
  · obtain ⟨a, ha, hab⟩ := hr₂ i hi
    exact ⟨a, ha, hab.le⟩
```

File: CombinatorialGames/Game/IGame.lean [hunk 2]
```diff
@@ -527,21 +527,35 @@ infix:50 " ≈ " => AntisymmRel (· ≤ ·)
 `IncompRel (⬝ ≤ ⬝) x y`. -/
 notation:50 x:50 " ‖ " y:50 => IncompRel (· ≤ ·) x y
 
+theorem equiv_of_forall_lf {x y : IGame}
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean:558]: I don't think this theorem is needed. It's trivially strengthened to an iff statement by simply unfolding definitions.

File: CombinatorialGames/Game/IGame.lean [hunk 3]
```diff
@@ -527,21 +527,35 @@ infix:50 " ≈ " => AntisymmRel (· ≤ ·)
...
+    (hl₁ : ∀ a ∈ x.leftMoves,  ¬y ≤ a)
+    (hr₁ : ∀ a ∈ x.rightMoves, ¬a ≤ y)
+    (hl₂ : ∀ b ∈ y.leftMoves,  ¬x ≤ b)
+    (hr₂ : ∀ b ∈ y.rightMoves, ¬b ≤ x) : x ≈ y := by
+  constructor <;> refine le_iff_forall_lf.2 ⟨?_, ?_⟩ <;> assumption
+
+theorem equiv_of_exists_le {x y : IGame}
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean:565]: This theorem is much the same, though I could understand still having it on the basis that unfolding the definitions is more difficult, since the predicates are nested and since `simp` will often enter an infinite loop.

File: CombinatorialGames/Game/IGame.lean [hunk 4]
```diff
@@ -527,21 +527,35 @@ infix:50 " ≈ " => AntisymmRel (· ≤ ·)
...
-  constructor <;> refine le_def.2 ⟨?_, ?_⟩ <;> intro i hi
-  · obtain ⟨j, hj, hj'⟩ := hl₁ i hi
-    exact Or.inl ⟨j, hj, hj'.le⟩
-  · obtain ⟨j, hj, hj'⟩ := hr₂ i hi
-    exact Or.inr ⟨j, hj, hj'.le⟩
-  · obtain ⟨j, hj, hj'⟩ := hl₂ i hi
-    exact Or.inl ⟨j, hj, hj'.ge⟩
-  · obtain ⟨j, hj, hj'⟩ := hr₁ i hi
-    exact Or.inr ⟨j, hj, hj'.ge⟩
+  apply equiv_of_exists_le <;> intro i hi
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]: Untested, but perhaps this works?
```suggestion
  apply equiv_of_exists_le <;> aesop
```
If not, does `aesop (add simp [AntisymmRel])` work?

Comment (plp127) [reply CombinatorialGames/Game/IGame.lean]: I tried a million ways to get `aesop` or `simp_all` to work, and they failed. `grind` did succeed, but also outputted the "grind is experimental" warning message.

File: CombinatorialGames/Game/IGame.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Game/IGame.lean:558]: The process of unfolding definitions is more work than I want. I often have proofs that go
```
  constructor
  · dsimp
    rw [le_iff_forall_lf]
    constructor
    · proof1
    · proof2
  · dsimp
    rw [le_iff_forall_lf]
    constructor
    · proof3
    · proof4
```
I'd be great if I could shorten that to just
```
  apply equiv_of_forall_lf
  · proof1
  · proof2
  · proof3
  · proof4
```
and get straight to the proofs, although you may have some better suggestions?

Comment (vihdzp) [reply CombinatorialGames/Game/IGame.lean:558]: You should also be able to do
```lean 4
simp_rw [AntisymmRel, le_iff_forall_lf]
refine ⟨⟨?_, ?_⟩, ⟨?_, ?_⟩⟩
  · proof1
  · proof2
  · proof3
  · proof4
```
And of course, if you want to preserve the iff, you can just skip the refine.

File: CombinatorialGames/Game/IGame.lean (hunk 4 above)
Comment (vihdzp) [reply CombinatorialGames/Game/IGame.lean]: I can't get it to work either. Can't figure out why. Let's hope `grind` is able to do this in the future!

File: CombinatorialGames/Game/IGame.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Game/IGame.lean:558]: `le_iff_forall_lf` will loop here.

Comment (vihdzp) [reply CombinatorialGames/Game/IGame.lean:558]: Fair enough. I think having this lemma is fine, then.

**Review by vihdzp — APPROVED** [review]
Please merge master!

**Review by tristan-f-r — APPROVED** [review]
